US06476045B2
Methyl 5-(4-Chlorophenyl)-4-pentynoate
A mixture of 1-chloro-4-iodobenzene (56 g, 235 mmol), dichlorobis(triphenylphosphine)palladium (II) (6.9 g, 9.8 mmol) and copper (I) iodide (1.9 g, 9.8 mmol) in diethylamine (200 mL) was degassed with bubbling nitrogen. Methyl 4-pentynoate (Description 1, 22.0 g, 196 mmol) was added dropwise and the mixture was degassed with bubbling nitrogen. The mixture was heated under reflux for 24 h., cooled and poured into saturated aqueous ammonium chloride. The mixture was extracted with ethyl acetate and the combined organic fractions were washed with saturated aqueous ammonium chloride. The solvent was evaporated under reduced pressure and the residue was triturated with hexane. The mixture was filtered, dried (MgSO4) and concentrated under reduced pressure. The mixture was refrigerated and the solid was collected and dried in vacuo to give the title compound as pale brown solid (21.0 g, 48%). 1H NMR (360 MHz, CDCl3) δ 7.31 (2H, d, J 7.5 Hz), 7.25 (2H, d, J 7.5 Hz), 3.72 (3H, s), 2.73 (2H, t, J 7.3 Hz), and 2.62 (2H, t, J 7.3 Hz).

reactant | 1-chloro-4-iodobenzene | 235 mmol, 56 g | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | Methyl 4-pentynoate | 196 mmol, 22.0 g | C(CCC#C)(=O)OC | C6H8O2
solvent | diethylamine | 200 mL | C(C)NCC | C4H11N
catalyst | dichlorobis(triphenylphosphine)palladium | 9.8 mmol, 6.9 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 9.8 mmol, 1.9 g | [Cu]I
product | Methyl 5-(4-Chlorophenyl)-4-pentynoate | 21.0 g, 48% | ClC1=CC=C(C=C1)C#CCCC(=O)OC | C12H11ClO2
